US07589116B2
Step 1: Ethyl 3-oxo-3-[2′-(trifluoromethoxy)-1,1′-biphenyl-3-yl]propanoate
A solution of 1-(2′-trifluoromethoxy-1,1′-biphenyl-3-yl)ethanone (0.63 g, 2.3 mmol) in DMF (3 mL) at 0° C. was treated with sodium hydride and stirred at room temperature for 10 minutes. Diethyloxalate (0.4 mL, 2.9 mmol) was then added and stirring continued at room temperature for 16 hours. The reaction mixture was poured into ice cold water, acidified with 1N HCl, and the solid formed was filtered and dried in vacuo to give the titled product (0.80 g, 91% yield).

reactant | 1-(2′-trifluoromethoxy-1,1′-biphenyl-3-yl)ethanone | 2.3 mmol, 0.63 g | FC(OC1=C(C=CC=C1)C1=CC(=CC=C1)C(C)=O)(F)F | C15H11F3O2
reactant | sodium hydride | [H-].[Na+]
reactant | Diethyloxalate | 2.9 mmol, 0.4 mL | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-oxo-3-[2′-(trifluoromethoxy)-1,1′-biphenyl-3-yl]propanoate | 0.80 g, 91% yield | O=C(CC(=O)OCC)C=1C=C(C=CC1)C1=C(C=CC=C1)OC(F)(F)F | C18H15F3O4
